US07429609B2
3-Iodo-4-methoxy-1H-indazole-5-carboxylic acid ethyl ester
To 15 mL of a solution of 1.33 g of 4-methoxy-1H-indazole-5-carboxylic acid ethyl ester in N,N-dimethylformamide were added 1.95 g of iodine and 0.85 g of potassium hydroxide, stirred at room temperature for 1 hour and 40 minutes, added with another 0.8 g of iodine, and stirred for 3 hours and 20 minutes. Thereafter, 10% sodium hydrogen sulfite aqueous solution was added, extracted twice with ethyl acetate, and the organic layer was washed once with saturated brine, dried over magnesium sulfate, and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography, to afford 1.68 g of the title compound as colorless crystals.

reactant | 4-methoxy-1H-indazole-5-carboxylic acid ethyl ester | 1.33 g | C(C)OC(=O)C=1C(=C2C=NNC2=CC1)OC | C11H12N2O3
reactant | iodine | 1.95 g | II | I2
reactant | potassium hydroxide | 0.85 g | [OH-].[K+]
reactant | iodine | 0.8 g | II | I2
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-Iodo-4-methoxy-1H-indazole-5-carboxylic acid ethyl ester | 1.68 g | C(C)OC(=O)C=1C(=C2C(=NNC2=CC1)I)OC | C11H11IN2O3
